US08048894B2
Method 5. Preparation of 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid
tert-Butyl 4-(4-hydroxy-1-methyl-2-oxo-3-(4-oxobutanoyl)-1,2-dihydroquinolin-7-yl)benzoate. AcOH (80%, 15 mL) was added to tert-butyl 4-(3-(3-(1,3-dioxan-2-yl)propanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoate (150 mg, 304 μmol), and the resulting mixture was heated at 90° C. for 1 hour. The reaction mixture was quenched with water and cooled to room temperature. A solid precipitated from solution and was filtered and stuck to the frit. The frit was washed with EtOAc (5×) to give the title compound as a beige solid.

reactant | tert-Butyl 4-(4-hydroxy-1-methyl-2-oxo-3-(4-oxobutanoyl)-1,2-dihydroquinolin-7-yl)benzoate | OC1=C(C(N(C2=CC(=CC=C12)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)=O)C(CCC=O)=O | C25H25NO6
reactant | tert-butyl 4-(3-(3-(1,3-dioxan-2-yl)propanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoate | 304 μmol, 150 mg | O1C(OCCC1)CCC(=O)C=1C(N(C2=CC(=CC=C2C1O)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)=O | C28H31NO7
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid | C(=O)(O)CCC(=O)C=1C(N(C2=CC(=CC=C2C1O)C1=CC=C(C(=O)O)C=C1)C)=O | C21H17NO7
